US09169259B2
A mixture of tert-butyl 4-(1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)pyrrolidine-3-carboxamido)benzoate (200 mg, 0.36 mmol) and TFA (2 mL) in dichloromethane (2 mL) was stirred at room temperature for 2 h. The residue was concentrated in vacuo. The crude product was purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 25% acetonitrile/75% water (0.1% TFA, v/v) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give 4-(1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)pyrrolidine-3-carboxamido)benzoic acid (6 mg, 4%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 10.54 (s, 1H), 8.88 (brs, 2H), 7.95-7.82 (m, 4 h), 7.49-6.69 (m, 3H), 4.06-3.57 (m, 6H), 3.19-3.02 (m, 5H), 2.05 (brs, 2H). LC-MS: [M+H]+, 504, tR=1.269 min, HPLC: 96.47% at 214 nm, 97.69% at 254 nm, tR=4.72 min.

reactant | tert-butyl 4-(1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)pyrrolidine-3-carboxamido)benzoate | 0.36 mmol, 200 mg | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)N1CC(CC1)C(=O)NC1=CC=C(C(=O)OC(C)(C)C)C=C1)C=CN2 | C29H33N7O5
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)pyrrolidine-3-carboxamido)benzoic acid | 6 mg, 4% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)N1CC(CC1)C(=O)NC1=CC=C(C(=O)O)C=C1)C=CN2 | C25H25N7O5
